US05610177
a) Bis-(cyclohexylmethyl)acetic acid
A solution of 3.0 g (12.5 mmol) of dibenzyl acetic acid in 100 mL of HOAc was treated with 0.5 g PrO2 and reduced with H2 at 25° C., 50 psi. When the required amount of H2 had been taken up, the mixture was filtered and the solvent removed under reduced pressure. Hexane was added and the solvent removed again leaving 3.1 g (98.4% yield) of the product as an oil which crystallized on standing, mp 67°-69° C. The structure was confirmed by NMR and mass spectroscopy.

reactant | dibenzyl acetic acid | 12.5 mmol, 3.0 g | C(C1=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C16H16O2
solvent | HOAc | 100 mL | CC(=O)O | C2H4O2
product | Bis-(cyclohexylmethyl)acetic acid | 3.1 g, 98.4% yield | C1(CCCCC1)CC(C(=O)O)CC1CCCCC1 | C16H28O2
